US07053060B2
To a mixture of methyl 4-(4-ethylbenzyl)-3-hydroxybenzoate (0.20 g) and 28% aqueous ammonia solution (6 mL) in ethanol (3 mL) was added ammonium chloride (0.079 g), and the mixture was stirred in sealed tube at 100° C. for 14 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. A mixed solvent of dichloromethane and methanol (10:1) was added to the residue, and an insoluble material was collected by filtration and dried to give 4-(4-ethylbenzyl)-3-hydroxybenzamide (0.065 g).

reactant | methyl 4-(4-ethylbenzyl)-3-hydroxybenzoate | 0.20 g | C(C)C1=CC=C(CC2=C(C=C(C(=O)OC)C=C2)O)C=C1 | C17H18O3
reactant | ammonia | 6 mL | N | H3N
reactant | ammonium chloride | 0.079 g | [Cl-].[NH4+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(4-ethylbenzyl)-3-hydroxybenzamide | 0.065 g | C(C)C1=CC=C(CC2=C(C=C(C(=O)N)C=C2)O)C=C1 | C16H17NO2
